US07842713B2
Preparation of Intermediate 376c: Dimethyl 4-allyl-5-(4-(methylsulfonyl)phenoxy)isophthalate
A mixture of dimethyl 4-allyl-5-hydroxyisophthalate (2.0 g, 7.99 mmol), 4-fluorophenyl methyl sulfone (2.1 g, 12 mmol), Cs2CO3 (5.2 g, 16 mmol) and CuI (400 mg, 2.1 mmol) in DMF (20 mL) was heated to 100° C. for 4 hours. The solvent was removed under reduced pressure. The residue was poured into water (20 mL) and extracted with EtOAc (50 mL×2). The combined organic layer was washed with brine (20 mL×2), dried over Na2SO4 and concentrated. The product was purified via silica gel gradient chromatography eluted with EtOAc in hexanes (10/90 to 30/90) to afford the title compound (2.5 g, 78%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.83 (dd, J=6.69, 1.60 Hz, 2 H) 3.03-3.16 (m, 3 H) 3.93 (d, 6 H) 6.14-6.34 (m, 1 H) 6.63 (dd, J=16.11, 1.60 Hz, 1 H) 6.88-6.98 (m, 1 H) 6.97-7.09 (m, 2 H) 7.79 (d, J=1.70 Hz, 1 H) 7.87-8.01 (m, 2 H) 8.29 (d, J=1.70 Hz, 1 H); LC-MS (ESI)+m/z=405.00 (M+H)+.

reactant | dimethyl 4-allyl-5-hydroxyisophthalate | 7.99 mmol, 2.0 g | C(C=C)C1=C(C=C(C(=O)OC)C=C1O)C(=O)OC | C13H14O5
reactant | 4-fluorophenyl methyl sulfone | 12 mmol, 2.1 g | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | Cs2CO3 | 16 mmol, 5.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 2.1 mmol, 400 mg | [Cu]I
product | Dimethyl 4-allyl-5-(4-(methylsulfonyl)phenoxy)isophthalate | 2.5 g, 78% | C(C=C)C1=C(C=C(C(=O)OC)C=C1OC1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC | C20H20O7S
